US06632919B1
(7-Methyl-1,8-naphthyridin-2-on-3-yl)acetic Acid
To a precooled (−78° C.) solution of N,N-diisopropylamine (4.84 g, 48.0 mmol) in diethyl ether (125 mL, dried over molecular seives) was added BuLi (2.5 M in hexanes) (19.0 mL, 48.0 mmol), the solution was stirred at this temperature for 15 min before slow addition of di-tert-butyl succinate (5.75 g, 0.0250 mol) dissolved in diethylether (10 mL). After 20 min at −78° C., 3-formyl-6-chloro-2-(pivaloylamino)pyridine (5.00 g, 23.0 mmol) dissolved in dry THF (10 mL, LAB-SCAN C2520, dried over molecular seives) was slowly added. The resulting yellow solution was stirred at −78° C. for 30 min and then allowed to warm to rt. The solution was then poured into NH4Cl (sat., aqueous) (100 mL). The aqueous layer was separated and extracted with diethyl ether (3×50 mL, dried over molecular seives). The combined organic layers were washed once with water (50 mL) and once with brine (50 mL), dried over MgSO4, and evaporated in vacuo. The crude products of diastereomeric alcohols were dissolved in HCl (3M, aqueous) (80 mL) and refluxed for 3.5 h. The aqueous phase was washed with diethyl ether (3×75 mL, dried over molecular seives), with chloroform (3×50 mL) and then adjusted to pH 7 by addition of K2CO3. The resulting yellow precipitate was filtered off, washed once with water and once with diethylether and dried in vacuo to give the desired product (1.25 g, 27%) as a yellow solid. mp. >250° C. 1H NMR (D2O/NaOH; this compound exist as two rotamers; chemical shifts for the minor rotamer is given in brackets): δ 7.53 (d, 8.1 Hz, 1H), 7.31 (s, 1H), 6.69 (d, 8.1 Hz, 1H), 3.20 (s, 2H), 2.25 (s, 3H). 13C NMR (D2O/NaOH): δ 180.4, 172.1, 159.0, 155.7, 136.5, 135.9, 126.6, 116.6, 114.8, 39.6, 23.3. FAB+ MS (m/z): 218.0768 (M+H+, calc. for C11H10N2O3+H+ 219.0770).

reactant | N,N-diisopropylamine | 48.0 mmol, 4.84 g | C(C)(C)NC(C)C | C6H15N
reactant | BuLi | 48.0 mmol, 2.5 M, 19.0 mL | [Li]CCCC
reactant | di-tert-butyl succinate | 0.0250 mol, 5.75 g | C(CCC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C12H22O4
reactant | 3-formyl-6-chloro-2-(pivaloylamino)pyridine | 23.0 mmol, 5.00 g | C(=O)C=1C(=NC(=CC1)Cl)NC(C(C)(C)C)=O | C11H13ClN2O2
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | diethyl ether | 125 mL | C(C)OCC | C4H10O
solvent | diethylether | 10 mL | C(C)OCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (7-Methyl-1,8-naphthyridin-2-on-3-yl)acetic Acid | 1.25 g, 27% | CC1=CC=C2C=C(C(NC2=N1)=O)CC(=O)O | C11H10N2O3
